US07173048B2
5-chloromethyl-1-ethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole was prepared in analogy to the prepaparation of 5-chloromethyl-1-ethyl-3-(3,4,5-trimethoxy-phenyl)-1H-pyrazole described by Kodama et al. (U.S. Pat. No. 6,472,386), but starting from 4-trifluoromethylacetophenone instead of 3′4′5′-trimethoxyacetophenone and using ethyl hydrazine instead of methylhydrazine.

reactant | 5-chloromethyl-1-ethyl-3-(3,4,5-trimethoxy-phenyl)-1H-pyrazole | ClCC1=CC(=NN1CC)C1=CC(=C(C(=C1)OC)OC)OC | C15H19ClN2O3
reactant | 4-trifluoromethylacetophenone | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | ethyl hydrazine | C(C)NN | C2H8N2
product | 5-chloromethyl-1-ethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | ClCC1=CC(=NN1CC)C1=CC=C(C=C1)C(F)(F)F | C13H12ClF3N2
